US07601856B2
Following the procedure of Example 40, 2-chloro-N-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylacetamide (0.13 g, 0.45 mmol), N-methylpiperazine (0.062 mL, 0.56 mmol), and cesium carbonate (0.29 g, 0.90 mmol) in acetonitrile (5 mL) provided 2-(4-methylpiperazin-1-yl)-N-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylacetamide (0.039 g) as its trifluroacetic acid salt after reverse-phase HPLC purification. MS (ESI) m/z 342 ([M+H]+).

reactant | 2-chloro-N-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylacetamide | 0.45 mmol, 0.13 g | ClCC(=O)NC1=CC2=C(OC3=C2CCCCC3)C=C1 | C15H16ClNO2
reactant | N-methylpiperazine | 0.56 mmol, 0.062 mL | CN1CCNCC1 | C5H12N2
reactant | cesium carbonate | 0.90 mmol, 0.29 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | trifluroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 2-(4-methylpiperazin-1-yl)-N-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylacetamide | 0.039 g | CN1CCN(CC1)CC(=O)NC1=CC2=C(OC3=C2CCCCC3)C=C1 | C20H27N3O2
